US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (164.0 mg) was reacted with trifluoromethanesulfonic acid 4-[pyrimidin-2-yl-(tetrahydropyran-4-yl)amino]phenyl ester (220.0 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yl-(tetrahydro-pyran-4-yl)-amino)phenyl]pent-4-enoic acid methyl ester (178.5 mg). Column chromatography (silica gel, eluent: chloroform/cyclohexane=1/2→chloroform) and thin layer chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate=1/1) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 164.0 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | trifluoromethanesulfonic acid 4-[pyrimidin-2-yl-(tetrahydropyran-4-yl)amino]phenyl ester | 220.0 mg | N1=C(N=CC=C1)N(C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C1CCOCC1 | C16H16F3N3O4S
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(pyrimidin-2-yl-(tetrahydro-pyran-4-yl)-amino)phenyl]pent-4-enoic acid methyl ester | 178.5 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1CCOCC1)C1=NC=CC=N1)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C28H28Cl2N4O4
